US04925838
To a solution of (2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methyl pyrrolidine (1.60 g), pyridine (0.43 ml) and N,N-dimethylaminopyridine (0.54 g) in dichloromethane (20 ml) was added methanesulfonyl chloride (0.37 ml) under ice-cooling and the mixture was stirred under the same condition for 1 hour and then allowed to stand at ambient temperature for 3 hours. The reaction mixture was washed successively with 1N hydrochloric acid, aqueous sodium hydrogen carbonate and aqueous sodium chloride, dried over magnesium sulfate, and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (1.90 g).

reactant | (2S,4R)-4-hydroxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methyl pyrrolidine | 1.60 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NCC1)=O | C16H20N4O6
reactant | pyridine | 0.43 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.37 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 1.90 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NCC1)=O | C17H22N4O8S
